US05958924
4-[2-[4-(4-fluorobenzoyl)-1-piperidyl]ethyl]-6-methoxy-2(1H)-quinolone hydrochloride (1:1)
A mixture of 1.1 g (4.6 mmol) of 4-(2-chloroethyl)-6-methoxy-2(1H)-quinolone, 1.0 g (5.5 mmol) of 4-(4-fluorobenzoyl)piperidine and 0.38 g (4.6 mmol) of sodium hydrogen carbonate in 20 ml of acetonitrile is heated to reflux for 8.5 hours. The reaction medium is then evaporated to dryness and the crude product is purified by flash chromatography on silica, eluting with a methanol/dichloromethane (5:95) mixture containing traces of aqueous ammonia.

reactant | 4-(2-chloroethyl)-6-methoxy-2(1H)-quinolone | 4.6 mmol, 1.1 g | ClCCC1=CC(NC2=CC=C(C=C12)OC)=O | C12H12ClNO2
reactant | 4-(4-fluorobenzoyl)piperidine | 5.5 mmol, 1.0 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | sodium hydrogen carbonate | 4.6 mmol, 0.38 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[2-[4-(4-fluorobenzoyl)-1-piperidyl]ethyl]-6-methoxy-2(1H)-quinolone hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCC2=CC(NC3=CC=C(C=C23)OC)=O)C=C1 | InChI=1S/C24H25FN2O3.ClH/c1-30-20-6-7-22-21(15-20)18(14-23(28)26-22)10-13-27-11-8-17(9-12-27)24(29)16-2-4-19(25)5-3-16;/h2-7,14-15,17H,8-13H2,1H3,(H,26,28);1H
